US08192918B2
37.5 g (0.3 mol) 6-methylisocytosine, 55.8 g (0.36 mol) 2-isocyanatoethyl methacrylate and 3.7 g (0.015 mmol) dibutyltin oxide were added to 400 ml dimethylacetamide. 100 mg BHT was added and the mixture was heated to 90° C. for one hour. The mixture was filtered at 90° C. Upon cooling down to room temperature 2-methyl-2-propenoic acid-2-[[[(1,4-dihydro-6-methyl-4-oxo-2-pyrimidinyl)amino]carbonyl]amino]ethyl ester started to crystallize. The mixture was stirred for two and a half hour. 500 ml acetone was added and 3-methyl-2-propenoic acid-2-[[[(1,4-dihydro-6-methyl-4-oxo-2-pyrimidinyl)amino]carbonyl]amino]ethyl ester was isolated by filtration. 2-methyl-2-propenoic acid-2-[[[(1,4-dihydro-6-methyl-4-oxo-2-pyrimidinyl)amino]carbonyl]amino]ethyl ester was treated with 500 ml acetone, again isolated by filtration and dried. 68.6 g (82%) of 2-methyl-2-propenoic acid-2-[[[(1,4-dihydro-6-methyl-4-oxo-2-pyrimidinyl)amino]carbonyl]amino]ethyl ester was isolated (m.p.:208° C.).

reactant | 6-methylisocytosine | 0.3 mol, 37.5 g | CC1=CC(=O)N=C(N1)N | C5H7N3O
reactant | 2-isocyanatoethyl methacrylate | 0.36 mol, 55.8 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | dibutyltin oxide | 0.015 mmol, 3.7 g | C(CCC)[Sn](CCCC)=O
solvent | dimethylacetamide | 400 ml | CC(=O)N(C)C | C4H9NO
product | 3-methyl-2-propenoic acid-2-[[[(1,4-dihydro-6-methyl-4-oxo-2-pyrimidinyl)amino]carbonyl]amino]ethyl ester | CC1=CC(N=C(N1)NC(=O)NCCOC(C=CC)=O)=O | C12H16N4O4
